US06417362B1
7-Piperazin-1-yl-3,4-dihydro-2H-isoquinolin-1-one (100 mg) synthesized according to the method described in J. Med. Chem., 39, 4583 (1996) was dissolved in N,N-dimethylformamide (5 ml). Potassium carbonate (71 mg) and 4-chloro benzyl bromide (106 mg) were added to the solution. The mixture was stirred at room temperature for 2 hr. Water was added to the reaction solution. The mixture was then extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate. The solvent was then removed by distillation under the reduced pressure. The residue was purified by column chromatography on silica gel (chloroform:methanol=9:1) to give 7-[4-(4-chlorobenzyl)piperazin-1-yl]-3,4-dihydro-2H-isoquinolin-1-one (75 mg).

reactant | 7-Piperazin-1-yl-3,4-dihydro-2H-isoquinolin-1-one | 100 mg | N1(CCNCC1)C1=CC=C2CCNC(C2=C1)=O | C13H17N3O
reactant | Potassium carbonate | 71 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-chloro benzyl bromide | 106 mg | ClC1=CC=C(CBr)C=C1 | C7H6BrCl
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 7-[4-(4-chlorobenzyl)piperazin-1-yl]-3,4-dihydro-2H-isoquinolin-1-one | 75 mg | ClC1=CC=C(CN2CCN(CC2)C2=CC=C3CCNC(C3=C2)=O)C=C1 | C20H22ClN3O
